US08003656B2
N. 1-(4-Bromophenyl)-2-chloro-9-methyl-1,9-dihydro-6H-purin-6-one
1-(4-Bromophenyl)-2-mercapto-9-methyl-1,9-dihydro-6H-purin-6-one hydrochloride (2.05 g, 5.49 mmol) is added to POCl3 (87 mL) and the resulting solution is refluxed at 135° C. for 38 h. Most volatiles are removed under vacuum and the residual solvents are co-evaporated with toluene (50 mL×3). The resulting dark solid is dissolved in CH2Cl2 (300 mL), washed with saturated NaHCO3 solution (100 mL×5), brine (50 mL×2), and dried over MgSO4. After removing solvent in vacuo, silica gel column chromatography (EtOAc:hexanes=50:50) gives the title compound as a yellow solid. 1H NMR (400 MHz, CDCl3) 7.51 (1H, s), 7.67 (2H, d), 7; 14 (2H, d), 3.83 (3H, s); m/z (ES+) 340.90 (M+).

reactant | 1-(4-Bromophenyl)-2-mercapto-9-methyl-1,9-dihydro-6H-purin-6-one hydrochloride | 5.49 mmol, 2.05 g | Cl.BrC1=CC=C(C=C1)N1C(=NC=2N(C=NC2C1=O)C)S
reactant | POCl3 | 87 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-(4-Bromophenyl)-2-chloro-9-methyl-1,9-dihydro-6H-purin-6-one | BrC1=CC=C(C=C1)N1C(=NC=2N(C=NC2C1=O)C)Cl | C12H8BrClN4O
